US06642222B2
Ethyl (2E)-3-amino-4-methyl-2-pentenoate
Ethyl 4-methyl-3-oxopentanoate (2.0 g, 13 mmol) was treated with 2M ammonia in ethanol (20 mL), heated to 80 C. in a sealed tube for 16 hours and concentrated to dryness to provide the title compound.

reactant | Ethyl 4-methyl-3-oxopentanoate | 13 mmol, 2.0 g | CC(C(CC(=O)OCC)=O)C | C8H14O3
reactant | ammonia | 2M | N | H3N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Ethyl (2E)-3-amino-4-methyl-2-pentenoate | N/C(=C/C(=O)OCC)/C(C)C | C8H15NO2
